US08957205B2
2-[4-(4-Propylpiperazin-1-yl)phenyl]-3-oxa-1-azaspiro[4.5]dec-1-en-4-one hydrochloride
After a suspension of 631 mg (1.54 mmol) of 1-[[[4-(4-propylpiperazin-1-yl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid hydrochloride in 18 ml of acetic anhydride was stirred at 100° C. for 1 hour, the reaction solution was concentrated under reduced pressure. The operation for adding toluene to the obtained residue and distilling off it under reduced pressure was carried out three times, and acetic anhydride was removed by azeotropic distillation to obtain 500 mg (83%) of the title compound.

reactant | 1-[[[4-(4-propylpiperazin-1-yl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid hydrochloride | 1.54 mmol, 631 mg | Cl.C(CC)N1CCN(CC1)C1=CC=C(C=C1)C(=O)NC1(CCCCC1)C(=O)O
solvent | acetic anhydride | 18 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-[4-(4-Propylpiperazin-1-yl)phenyl]-3-oxa-1-azaspiro[4.5]dec-1-en-4-one hydrochloride | 500 mg, 83% | Cl.C(CC)N1CCN(CC1)C1=CC=C(C=C1)C1=NC2(C(O1)=O)CCCCC2 | InChI=1S/C21H29N3O2.ClH/c1-2-12-23-13-15-24(16-14-23)18-8-6-17(7-9-18)19-22-21(20(25)26-19)10-4-3-5-11-21;/h6-9H,2-5,10-16H2,1H3;1H
